US05334716
To a solution of ethyl 4-(3-indolizinyl)-4-oxobutyrate (556 mg) in tetrahydrofuran (5 ml) was added borane in tetrahydrofuran (1M solution, 3.6 ml) at 0° C. After stirring at room temperature for 10 minutes, the reaction was quenched by aqueous potassium dihydrogen phosphate at 0° C., and the resulting mixture was extracted with ether. The organic layers were washed with water, aqueous sodium bicarbonate and brine, dried over sodium sulfate. After evaporation of the solvent, the residue was chromatographed on alumina (Hexane-methylene chloride=1:1) to give ethyl 4-(3-indolizinyl)butyrate (294 mg).

reactant | ethyl 4-(3-indolizinyl)-4-oxobutyrate | 556 mg | C=1C=C(N2C=CC=CC12)C(CCC(=O)OCC)=O | C14H15NO3
reactant | borane | B | BH3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 3.6 ml | O1CCCC1 | C4H8O
product | ethyl 4-(3-indolizinyl)butyrate | 294 mg | C=1C=C(N2C=CC=CC12)CCCC(=O)OCC | C14H17NO2
